US07842685B2
Reaction of 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propan-1-one (0.200 g, 0.497 mmol) and methyl azetidine-3-carboxylate hydrochloride (0.113 g, 0.745 mmol), according to reference R and the general procedure for reductive amination gave racemic methyl 1-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propyl)azetidine-3-carboxylate. Separation of enantiomers was accomplished by SFC chromatography (Column: Chiralpak AD-H (21×250 mm, 5 um); A: Liquid CO2; B: Isopropanol (0.2% DEA); Isocratic: 79:21 (A:B); Flow Rate: 70 mL/min; Outlet Pressure: 100 bar) to give (R)-methyl 1-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propyl)azetidine-3-carboxylate and (S)-methyl 1-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propyl)azetidine-3-carboxylate. MS (ESI) m/z: Calculated: 501.2; Observed: 502.1 (M++1).

reactant | 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propan-1-one | 0.497 mmol, 0.200 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(CC)=O | C24H19FN2OS
reactant | methyl azetidine-3-carboxylate hydrochloride | 0.745 mmol, 0.113 g | Cl.N1CC(C1)C(=O)OC
product | racemic methyl 1-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propyl)azetidine-3-carboxylate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(CC)N1CC(C1)C(=O)OC | C29H28FN3O2S
